US09375000B2
2-Chloro-6-methylpyridine (1.6 g), 3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidine (4.0 g), sodium t-butoxide (1.5 g), tris(dibenzylidenacetone)dipalladium (0)-chloroform adduct (0.2 g) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.25 g) were added to toluene (15 ml), and heated for 1 hour at 120° C. using a microwave reactor (trade name: INITIATOR™, manufactured by Biotage). Upon the completion of the reaction, the reaction mixture was diluted with ethyl acetate, and the precipitate was filtered off through a short silica gel layer. The filtrate was distilled off under reduced pressure, and the residue was purified by column chromatography to obtain 2-methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridine (3.4 g).

reactant | 2-Chloro-6-methylpyridine | 1.6 g | ClC1=NC(=CC=C1)C | C6H6ClN
reactant | 3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidine | 4.0 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CNCC1)C(F)(F)F | C11H9Cl3F3N
reactant | sodium t-butoxide | 1.5 g | CC(C)([O-])C.[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 2-methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]pyridine | 3.4 g | CC1=NC(=CC=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H14Cl3F3N2
